US08222314B2
2-{[(3-Chlorophenyl)carbamoyl]oxy}ethyl prop-2-enoate
0.15 g of 2,6-di-tert-butyl-4-methylphenol, 0.075 g of Desmorapid Z, 85.3 g of 3-chlorophenyl isocyanate were initially introduced into a 500 ml round-bottomed flask and heated to 60° C. Thereafter, 65.5 g of 3-hydroxybutyl acrylate were added dropwise and the mixture was kept further at 60° C. until the isocyanate content had fallen below 0.1%. Cooling was then effected. The product was obtained as a crystalline solid.

reactant | 2,6-di-tert-butyl-4-methylphenol | 0.15 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | Desmorapid | 0.075 g | CN(C)CCCN1CN(CN(C1)CCCN(C)C)CCCN(C)C | C18H42N6
reactant | 3-chlorophenyl isocyanate | 85.3 g | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
reactant | 3-hydroxybutyl acrylate | 65.5 g | C(C=C)(=O)OCCC(C)O | C7H12O3
reactant | isocyanate | [N-]=C=O
product | 2-{[(3-Chlorophenyl)carbamoyl]oxy}ethyl prop-2-enoate | C(C=C)(=O)OCCOC(NC1=CC(=CC=C1)Cl)=O | C12H12ClNO4
